CIRCUIT C:\Export Microwind\jarirtest001.MSK
*
* IC Technology: CMOS 0.18µm - 6 Metal
*
VDD 1 0 DC 2.00
Vclock1 6 0 PULSE(0.00 2.00 3.95N 0.05N 0.05N 3.95N 8.00N)
*
* List of nodes
* "s1" corresponds to n°4
* "clock1" corresponds to n°6
*
* MOS devices
MN1 0 6 4 0 N1  W= 0.70U L= 0.60U
MP1 4 6 1 1 P1  W= 0.70U L= 0.20U
*
C2 1 0  2.544fF
C3 1 0  0.287fF
C4 4 0  1.045fF
C6 6 0  0.189fF
*
* n-MOS Model 3 :
* low leakage
.MODEL N1 NMOS LEVEL=3 VTO=0.50 UO=380.000 TOX= 4.0E-9
+LD =-0.020U THETA=0.200 GAMMA=0.350
+PHI=0.500 KAPPA=0.080 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* low leakage
.MODEL P1 PMOS LEVEL=3 VTO=-0.60 UO=200.000 TOX= 5.0E-9
+LD =0.010U THETA=0.300 GAMMA=0.400
+PHI=0.200 KAPPA=0.010 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 5.00N
* (Pspice)
.PROBE
.END
