CIRCUIT C:\Export Microwind\jarirtestcmosinv08.MSK
*
* IC Technology: CMOS 0.8µm - 2 Metal
*
VDD 1 0 DC 5.00
Vclock1 6 0 PULSE(0.00 5.00 10.00N 3.00N 3.00N 10.00N 26.00N)
*
* List of nodes
* "s1" corresponds to n°4
* "clock1" corresponds to n°6
*
* MOS devices
MN1 0 6 4 0 N1  W= 2.40U L= 0.80U
MP1 4 6 1 1 P1  W= 7.60U L= 0.80U
*
C2 1 0 22.214fF
C3 1 0  7.624fF
C4 4 0 18.771fF
C6 6 0  1.753fF
*
* n-MOS Model 3 :
* Standard
.MODEL N1 NMOS LEVEL=3 VTO=0.80 UO=600.000 TOX=20.0E-9
+LD =0.060U THETA=0.180 GAMMA=0.700
+PHI=0.700 KAPPA=0.030 VMAX=130.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* p-MOS Model 3:
* Standard
.MODEL P1 PMOS LEVEL=3 VTO=-0.80 UO=200.000 TOX=20.0E-9
+LD =-0.050U THETA=0.180 GAMMA=0.450
+PHI=0.700 KAPPA=0.040 VMAX=100.00K
+CGSO=100.0p CGDO=100.0p
+CGBO= 60.0p CJSW=240.0p
*
* Transient analysis
*
.TEMP 27.0
.TRAN 0.1N 50.00N
* (Pspice)
.PROBE
.END
